US07662830B2
5. 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-chloro-nicotinonitrile
To a mixture of 4-[4-(5-bromo-3-chloro-pyridin-2-yl)-2-(R)-methyl-piperazin-1-y]-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)pyrimidine (700 mg) and Zn(CN)2 (94 mg) in DMF, add Pd(PPh3)4 (77 mg, 0.067 mmol). Purge the reaction mixture for 10 min with dry N2. Heat the stirring reaction mixture overnight at 80° C., cool to room temperature and partition between water and EtOAc. Dry the solution (Na2SO4), concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:1) to afford the title compound as a white solid.

reactant | 4-[4-(5-bromo-3-chloro-pyridin-2-yl)-2-(R)-methyl-piperazin-1-y]-6-(4-fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)pyrimidine | 700 mg | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@H](CCC1)C)C)Cl | C25H27BrClFN6
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 94 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.067 mmol, 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(S)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-chloro-nicotinonitrile | FC1=CC=C(C=C1)C1=CC(=NC(=N1)N1[C@H](CCC1)C)N1[C@@H](CN(CC1)C1=NC=C(C#N)C=C1Cl)C | C26H27ClFN7
